US07989449B2
In an analogous reaction sequence to that described for Building Block C, the reaction of 3-methyl phenylmagnesium bromide with 3-bromoacetophenone yielded the 1-(3-bromo-phenyl)-1-m-tolyl-ethanol which was used as crude material in the following elimination reaction with a catalytic amount of p-toluenesulfonic acid to yield the title compound (yield: 66% of theory) as a colourless oil. TLC: Rf: 0.83 (silica gel; heptane:ethyl acetate=4:1, UV, 254 nm).

reactant | 3-methyl phenylmagnesium bromide | CC=1C=C(C=CC1)[Mg]Br
reactant | 3-bromoacetophenone | CC(=O)C1=CC(=CC=C1)Br | C8H7BrO
product | 1-(3-bromo-phenyl)-1-m-tolyl-ethanol | BrC=1C=C(C=CC1)C(C)(O)C=1C=C(C=CC1)C | C15H15BrO
